US05559105
k) (2E)-3(2-n-Butyl-1-methyl-1H-imidazol-5-yl)-3-(2-carboxymethoxy-4-methoxyphenyl)-2-(3,4-methylenedioxybenzyl)prop-2-enoic acid
Methyl-(E)-3(2-n-Butyl-1-methyl-1H-imidazol-5-yl)-3-(2-t-butoxycarbonylmethoxy-4-methoxyphenyl)-2-(3,4-methylenedioxybenzyl)prop-2-enoate (85 mg, 0.144 mmol) in 2.5N NaOH (1.0 ml) and isopropanol (2.0 ml) was heated under argon at 95° for 18 hours. The solvent (i-PrOH) was removed under reduced pressure and the residue was diluted with H2O and washed with EtOAc. The pH of the aqueous layer was lowered to 3.5 with 1M HCl and the solution was extracted with EtOAc (5x). The combined extracts were dried (Na2SO4 anhydrous) and evaporated. (48 mg, 64%). The crude title compound was recrystallized from CHCl3 /CH3CN to afford a white solid. (26 mg, 36%).

reactant | Methyl-(E)-3(2-n-Butyl-1-methyl-1H-imidazol-5-yl)-3-(2-t-butoxycarbonylmethoxy-4-methoxyphenyl)-2-(3,4-methylenedioxybenzyl)prop-2-enoate | 0.144 mmol, 85 mg | COC(\C(=C(/C1=C(C=C(C=C1)OC)OCC(=O)OC(C)(C)C)\C1=CN=C(N1C)CCCC)\CC1=CC2=C(C=C1)OCO2)=O | C33H40N2O8
solvent | NaOH | 2.5N, 1.0 ml | [OH-].[Na+]
solvent | isopropanol | 2.0 ml | C(C)(C)O | C3H8O
product | (2E)-3(2-n-Butyl-1-methyl-1H-imidazol-5-yl)-3-(2-carboxymethoxy-4-methoxyphenyl)-2-(3,4-methylenedioxybenzyl)prop-2-enoic acid | C(CCC)C=1N(C(=CN1)/C(=C(/C(=O)O)\CC1=CC2=C(C=C1)OCO2)/C2=C(C=C(C=C2)OC)OCC(=O)O)C | C28H30N2O8
